US04122262
Cis-2-(2',2'-dimethoxyethyl)-3-azido-4-azetidinone
To a stirred solution of 1.15 g (3.28 mmole) of cis-1-(2,4-dimethoxybenzyl)-2-(2,2-dimethoxyethyl)-3-azido-4-azetidinone in 120 ml of degassed acetonitrile was added at 80°, a solution of 11.8 g (43.7 mmole) of potassium persulfate and 4.05 g (23.3 mmole) of potassium monohydrogenphosphate in 135 ml of degassed water in 6 portions over a 1 hour period. The pH of the mixture was adjusted to 6.5-7.0 with potassium monohydrogenphosphate after each addition. After one hour, the mixture was cooled to room temperature, the acetonitrile removed in vacuum and the pH adjusted to 8.0. Extraction with ethyl acetate (4 × 75 ml) afforded a mixture of product and 2,4-dimethoxybenzaldehyde which was chromatographed over silica gel with benzeneethyl acetate to give 0.51 g (77%) of the title compound as a light yellow oil.

reactant | cis-1-(2,4-dimethoxybenzyl)-2-(2,2-dimethoxyethyl)-3-azido-4-azetidinone | 3.28 mmole, 1.15 g | COC1=C(CN2[C@H]([C@H](C2=O)N=[N+]=[N-])CC(OC)OC)C=CC(=C1)OC | C16H22N4O5
reactant | potassium persulfate | 43.7 mmole, 11.8 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | potassium monohydrogenphosphate | 23.3 mmole, 4.05 g | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | 2,4-dimethoxybenzaldehyde | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
solvent | water | 135 ml | O | H2O
product | Cis-2-(2',2'-dimethoxyethyl)-3-azido-4-azetidinone | 0.51 g, 77% | COC(C[C@@H]1NC([C@@H]1N=[N+]=[N-])=O)OC | C7H12N4O3
